US06335445B1
14.1) 1-[(5-methoxy-1H-indol-3-yl)methylcarbonyl]-4-(4-nitrophenyl)-piperazine
In a 100 ml flask, 1.62 g (10 mmoles) of 1.1′-carbonyl-diimidazole is added to a solution of 2.05 g (10 mmoles) of 5-methoxyindole-3-acetic acid in 10 ml of THF. After one hour of agitation at ambient temperature, a solution of 1-(4-nitrophenyl)piperazine in 10 ml of DMF is added dropwise. Agitation is continued for 15 hours. The reaction medium is then concentrated under vacuum and the evaporation residue is precipitated from 50 ml of an ethyl acetate/water mixture (1/1). After filtration, the solid is rinsed successively with 50 ml of water, 50 ml of ethyl acetate and 50 ml of dichloromethane. After drying under vacuum, a yellow powder is obtained with a yield of 91%. Melting point: 239-240° C.

reactant | 1.1′-carbonyl-diimidazole | 10 mmoles, 1.62 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 5-methoxyindole-3-acetic acid | 10 mmoles, 2.05 g | COC=1C=C2C(=CNC2=CC1)CC(=O)O | C11H11NO3
reactant | 1-(4-nitrophenyl)piperazine | [N+](=O)([O-])C1=CC=C(C=C1)N1CCNCC1 | C10H13N3O2
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1-[(5-methoxy-1H-indol-3-yl)methylcarbonyl]-4-(4-nitrophenyl)-piperazine | yield of 91% | COC=1C=C2C(=CNC2=CC1)CC(=O)N1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-] | C21H22N4O4
